US08314091B2
B: (S)-3-((4-(4-Amino-3-fluorobenzoyl)-2-isopropylpiperazin-1-yl)methyl)-N-tert-butylbenzamide
(S)-(4-Amino-3-fluorophenyl)(3-isopropylpiperazin-1-yl)methanone (0.754 mmol, 200 mg), N-tert-butyl-3-(chloromethyl)benzamide (0,754 mmol, 170 mg), potassium carbonate (1.508 mmol, 208 mg) and sodium iodide (0.075 mmol, 11.30 mg) were dissolved in acetonitrile (20 mL) and heated at reflux for 3 hours. The reaction was concentrated under vacuum and the crude material dissolved in ethyl acetate and washed with water, dried over sodium sulphate and concentration under vacuum. The crude residue was then purified by column chromatography (eluting with dichloromethane to dichloromethane/methanol (1% to 5%)) to give the title compound (160 mg) as an off white solid. MS (ESI) m/z 456.4 [M+H]+

reactant | (S)-(4-Amino-3-fluorophenyl)(3-isopropylpiperazin-1-yl)methanone | 0.754 mmol, 200 mg | NC1=C(C=C(C=C1)C(=O)N1C[C@@H](NCC1)C(C)C)F | C14H20FN3O
reactant | N-tert-butyl-3-(chloromethyl)benzamide | 0,754 mmol, 170 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CCl)=O | C12H16ClNO
reactant | potassium carbonate | 1.508 mmol, 208 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.075 mmol, 11.30 mg | [I-].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (S)-3-((4-(4-Amino-3-fluorobenzoyl)-2-isopropylpiperazin-1-yl)methyl)-N-tert-butylbenzamide | 160 mg | NC1=C(C=C(C(=O)N2C[C@@H](N(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C(C)C)C=C1)F | C26H35FN4O2
